US09382237B2
Synthesis of 3-((3-chlorophenyl)amino)-5-((4-(pyrimidin-2-yloxy)benzyl)amino)-1H-pyrazole-4-carboxamide D32
5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide (100 mg) was then suspended in EtOH (4 mL) and 4-(pyrimidin-2-yloxy)benzaldehyde (80 mg, 1 eq.) and piperidine (1 drop) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain product as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr (104 mg, 60% yield). Resulting imine (104 mg) was suspended in 5 mL MeOH and sodium borohydride (10 eq, 100 mg) was added. HPLC confirmed reaction was complete (absence of imine). After completion (1 hr), precipitate was filtered to obtain D32 as a light yellow powder. Product was washed with deionized water to remove excess sodium borohydride. Product was allowed to dry under vacuum for 18 hrs. 31 mg (30% yield) of final product was obtained.

reactant | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide | 100 mg | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C(=O)N | C10H10ClN5O
reactant | 4-(pyrimidin-2-yloxy)benzaldehyde | 80 mg, 1 eq. | N1=C(N=CC=C1)OC1=CC=C(C=O)C=C1 | C11H8N2O2
reactant | sodium borohydride | 100 mg, 10 eq | [BH4-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 3-((3-chlorophenyl)amino)-5-((4-(pyrimidin-2-yloxy)benzyl)amino)-1H-pyrazole-4-carboxamide | 31 mg, 30% yield | ClC=1C=C(C=CC1)NC1=NNC(=C1C(=O)N)NCC1=CC=C(C=C1)OC1=NC=CC=N1 | C21H18ClN7O2
